* eeschema netlist version 1.1 (spice format) creation date: monday 08 july 2013 03:32:09 pm ist
.include ua741.sub

* Printing option calc
* Plotting option vplot8_1
x1  in1 gnd out1 ua741
v1  n-000002 gnd sine(    )
r3  out1 gnd 10000
r1  in1 n-000002 1000
r2  out1 in1 2000

.tran  100e-06 40e-03 0e-00

* Control Statements 
.control
run
plot v(in1)/v(out1)
plot v(n-000002) v(out1) 
.endc
.end
