* eeschema netlist version 1.1 (spice format) creation date: thursday 11 july 2013 05:12:28 pm ist
.include ua741.sub

* Plotting option calc
* Plotting option vplot8_1
x1  in1 gnd out1 ua741
v1  in2 gnd sine(0 5 50 0 0)
r3  out1 gnd 10000
r1  in1 in2 1000
r2  out1 in1 2000

.tran  100e-06 40e-03 0e-00

* Control Statements 
.control
run

plot v(in2) v(out1)
.endc
.end
